US09216985B2
(S)-2-(1-((7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)propyl)-5-fluoro-3-(4-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one
Under nitrogen, to (S)-2-(1-aminopropyl)-5-fluoro-3-(4-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one (35 mg, 0.089 mmol, 1.0 equiv) in t-BuOH (0.09 mL) at 23° C. was added 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (16 mg, 0.11 mmol, 1.2 equiv) and diisopropylethylamine (31 μL, 0.18 mmol, 2.0 equiv). After stirring for 16 hr at 120° C. in a sealed tube, the reaction mixture was concentrated in vacuo and the residue was purified by preparative TLC eluting with CH2Cl2/MeOH to afford 6.1 mg of the title compound (13% yield).

reactant | (S)-2-(1-aminopropyl)-5-fluoro-3-(4-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one | 0.089 mmol, 35 mg, 1.0 equiv | N[C@@H](CC)C1=NC2=CC=CC(=C2C(N1C1=CC=C(C=C1)OCC(F)(F)F)=O)F | C19H17F4N3O2
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.11 mmol, 16 mg, 1.2 equiv | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | diisopropylethylamine | 0.18 mmol, 31 μL, 2.0 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | t-BuOH | 0.09 mL | CC(C)(C)O | C4H10O
product | (S)-2-(1-((7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)propyl)-5-fluoro-3-(4-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one | 6.1 mg, 13% yield | N1=CN=C(C2=C1NC=C2)N[C@@H](CC)C2=NC1=CC=CC(=C1C(N2C2=CC=C(C=C2)OCC(F)(F)F)=O)F | C25H20F4N6O2
